US07691850B2
e) (±)-(3R,4S)/(3S,4R)-4-amino-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol
To a solution of 1,1-dimethylethyl((3S,4R)-4-hydroxy-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)carbamate (327 mg, 0.843 mmol) in MeOH (4 mL) at 25° C. was added dropwise a 4M HCl in dioxane solution (1.5 mL, 5.9 mmol). After 12 h, the solution was concentrated and the residue neutralized with excess MP carbonate resin in DCM to afford the title compound (242 mg, quant.) as a yellow oil: LCMS (ES) m/e 289 (M+H).

reactant | 1,1-dimethylethyl((3S,4R)-4-hydroxy-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)carbamate | 0.843 mmol, 327 mg | CC(C)(C)N(C([O-])=O)[C@H]1CN(C[C@H]1O)CCC1=CC=NC2=CC=C(N=C12)OC
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 5.9 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 4 mL | CO | CH4O
product | (3S,4R)-4-amino-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol | 242 mg | N[C@H]1[C@H](CN(C1)CCC1=CC=NC2=CC=C(N=C12)OC)O | C15H20N4O2
